US07977351B2
5-Fluoro-3-(6-methyl-6H-thieno[2,3-c]furan-4-ylidene)-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (453 mg, 3.0 mmol.) in THF (3 mL) is cooled to 0° C. under an Argon atmosphere and treated with a solution of lithium bis(trimethylsilyl)amide (6.0 mL of a 1 M solution in THF, 6.0 mmol) dropwise. The resulting solution is stirred at 0° C. for 10 min and warmed to room temperature. A solution of 6-ethyl-6H-thieno[2,3-c]furan-4-one, (310 mg, 2.0 mmol) in THF (5 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 4 h. The reaction mixture is poured into aqueous 10% HCl solution (50 mL). The resulting mixture is heated to 90° C. for 45 min and stirred at room temperature for 36 h. The precipitate which formed is collected by filtration and dried. The solid obtained is purified by chromatography (silica gel, ethyl acetate/hexanes) to give the title compound as a yellow solid.

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 3.0 mmol, 453 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 6-ethyl-6H-thieno[2,3-c]furan-4-one | 2.0 mmol, 310 mg | C(C)C1OC(C2=C1SC=C2)=O | C8H8O2S
reactant | HCl | 50 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-(6-methyl-6H-thieno[2,3-c]furan-4-ylidene)-1,3-dihydro-indol-2-one | FC=1C=C2C(C(NC2=CC1)=O)=C1C2=C(C(O1)C)SC=C2 | C15H10FNO2S
